US07572934B2
2-Bromo-1-butoxy-4-methoxybenzene (C.2).
A mixture of 2-bromo-4-methoxyphenol (1.50 g, 7.39 mmol) (Bionet, CAS# 17332-11-5), 1-bromobutane (0.95 mL, 8.87 mmol) (Acros, CAS# 109-65-9), and cesium carbonate (3.13 g, 9.60 mmol) in DMF (40 mL) was stirred overnight at room temperature. The mixture was diluted with EtOAc, washed with water and brine, dried over Na2SO4, and concentrated. The crude product was purified by silica gel flash chromatography (0-20% EtOAc/hexane) to afford compound C.2 (1.49 g, 78% yield) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.15 (d, J=2.7 Hz, 1H), 6.84 (d, J=9.0 Hz, 1H), 6.80 (dd, J=3.1, 9.0 Hz, 1H), 3.97 (t, J=6.5 Hz, 2H), 3.76 (s, 3H), 1.79 (m, 2H), 1.53 (m, 2H), 0.98 (t, J=7.2 Hz, 3H).

reactant | 2-bromo-4-methoxyphenol | 7.39 mmol, 1.50 g | BrC1=C(C=CC(=C1)OC)O | C7H7BrO2
reactant | 1-bromobutane | 8.87 mmol, 0.95 mL | BrCCCC | C4H9Br
reactant | cesium carbonate | 9.60 mmol, 3.13 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Bromo-1-butoxy-4-methoxybenzene | 78% yield | BrC1=C(C=CC(=C1)OC)OCCCC | C11H15BrO2
